US04575378
Stage (a) Preparation of γ-chloropropyl N-(2-nitro-4-hydroxyphenyl)-carbamate
77 g (0.5 mole) of 3-nitro-4-aminophenol are dissolved in 200 ml of dimethoxy ethane, 27 g of calcium carbonate are added, and 80 g (0.51 mole) of γ-chloropropyl chloroformate are added dropwise at 70° C. After 1 hour, the reaction mixture is filtered hot and the filtrate is stirred into 700 ml of ice-water, after which 128 g (93%) of the desired compound precipitate. The melting point is 103°-105° C., and after recrystallisation from toluene is 106° C.

reactant | 3-nitro-4-aminophenol | 0.5 mole, 77 g | [N+](=O)([O-])C=1C=C(C=CC1N)O | C6H6N2O3
reactant | calcium carbonate | 27 g | C([O-])([O-])=O.[Ca+2]
reactant | γ-chloropropyl chloroformate | 0.51 mole, 80 g | ClC(=O)OCCCCl | C4H6Cl2O2
solvent | dimethoxy ethane | 200 ml | C(OC)COC | C4H10O2
product | γ-chloropropyl N-(2-nitro-4-hydroxyphenyl)-carbamate | [N+](=O)([O-])C1=C(C=CC(=C1)O)NC(OCCCCl)=O | C10H11ClN2O5
